US05585394
5-Chloro-1,3-dihydro-1-(3,4-dimethoxybenzenesulfonyl)-3-phenyl-2H-benzimidazol-2-one
66 mg of sodium hydride as an 80% dispersion in oil were added in portions to a solution of 490 mg of 5-chloro-1,3-dihydro-3-phenyl-2H-benzimidazol-2-one in 5 ml of DMF and the reaction medium was stirred for 30 minutes. 520 mg of 3,4-dimethoxybenzenesulfonyl chloride were then introduced and the reaction medium was stirred overnight at room temperature. The solvent was then evaporated off under vacuum and the residue obtained was taken up with water. It was then extracted with DCM, washed with water and then dried over sodium sulfate and the solvent was evaporated off to dryness. The residue obtained was chromatographed on silica using a DCM/AcOEt mixture (95/5; v/v) as the eluent to give the expected product in the form of a white solid, which crystallized from absolute EtOH. m=0.71 g. M.p.=154° C.

reactant | sodium hydride | 66 mg | [H-].[Na+]
reactant | 5-chloro-1,3-dihydro-3-phenyl-2H-benzimidazol-2-one | 490 mg | ClC1=CC2=C(NC(N2C2=CC=CC=C2)=O)C=C1 | C13H9ClN2O
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 520 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-1,3-dihydro-1-(3,4-dimethoxybenzenesulfonyl)-3-phenyl-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2C2=CC=CC=C2)=O)S(=O)(=O)C2=CC(=C(C=C2)OC)OC)C=C1 | C21H17ClN2O5S
